US06534524B1
To a solution of N-{3-styryl-1-[2-(trimethyl-silanyl)-ethoxymethyl]-1H-indazol-6-yl}-benzene-1,3-diamine (91 mg, 0.2 mmol) and pyridine (0.081 mL, 1.0 mmol) in CH2Cl2 (0.5 mL) cooled to −5° C. under an atmosphere of argon was added benzoyl chloride (0.028 mL, 0.24 mmol). After 0.5 h the reaction was quenched with saturated NaHCO3(aq) then extracted 2×5 mL CH2Cl2. The pooled organic material was washed with brine (5 mL), dried with Na2SO4, decanted and concentrated under reduced pressure to give an oil. The crude material was purified by silica gel chromatography (eluting with hexane:EtOAc 3:2) to give N-(3-{3-Styryl-1-[2-(trimethyl-silanyl)-ethoxymethyl]-1H-indazol-6-ylamino}-phenyl)-benzamide (108 mg, 96% yield). Rf sm 0.35, Rf p 0.44 (ethyl acetate:hexane 1:1); FTIR (thin film) 3320, 2951, 2893, 1657, 1604, 1537, 1493, 1409, 1303, 1248, 1074 cm−1; LCMS (ESI) [M+H]/z Calc'd 561, Found 561. Anal. Calc'd: C, 72.82; H, 6.47; N, 9.99. Found: C, 72.33; H, 6.39; N, 9.81.

reactant | N-{3-styryl-1-[2-(trimethyl-silanyl)-ethoxymethyl]-1H-indazol-6-yl}-benzene-1,3-diamine | 0.2 mmol, 91 mg | C(=CC1=CC=CC=C1)C1=NN(C2=CC(=CC=C12)NC1=CC(=CC=C1)N)COCC[Si](C)(C)C | C27H32N4OSi
reactant | pyridine | 1.0 mmol, 0.081 mL | N1=CC=CC=C1 | C5H5N
reactant | benzoyl chloride | 0.24 mmol, 0.028 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
product | N-(3-{3-Styryl-1-[2-(trimethyl-silanyl)-ethoxymethyl]-1H-indazol-6-ylamino}-phenyl)-benzamide | 108 mg, 96% yield | C(=CC1=CC=CC=C1)C1=NN(C2=CC(=CC=C12)NC=1C=C(C=CC1)NC(C1=CC=CC=C1)=O)COCC[Si](C)(C)C | C34H36N4O2Si
